US07795437B2
68.1 Trans 4-(2-Chloro-4-fluoro-phenoxy)-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester
Rac-cis-7-Oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid tert-butyl ester (1 g, 5 mmol) was solvated in dioxane (5 mL), 2-Chloro-4-Fluorophenol was added (1.471 g, 10 mmol) and sodium hydroxide (0.401 g, 10 mmol). After 20 hours refluxing, the mixture was cooled, ammonium chloride was added and the mixture extracted three times with ethyl acetate. The combined organic phases were dried with magnesium sulfate and concentrated under vacuum. After a flash chromatography with heptane/ethyl acetate 1:1 to 1:2 heptane/ethyl acetate a solid the title compound was obtained as solid (0.778 g, 45% yield). MS (m/e): 404.5 (M+AcO−).

reactant | Rac-cis-7-Oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid tert-butyl ester | 5 mmol, 1 g | C(C)(C)(C)OC(=O)N1C[C@@H]2O[C@@H]2CC1 | C10H17NO3
reactant | 2-Chloro-4-Fluorophenol | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
reactant | sodium hydroxide | 10 mmol, 0.401 g | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | Trans 4-(2-Chloro-4-fluoro-phenoxy)-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)OC1=C(C=C(C=C1)F)Cl)O | C16H21ClFNO4
